US08202954B2
General Ethylene/1-Octene Copolymerization Procedure.
A 2-liter Parr reactor is used in the polymerizations. All feeds are passed through columns of alumina and Q-5™ catalyst (available from Englehardt Chemicals Inc.) prior to introduction into the reactor. Solution of complex (1) and activating co-catalysts (activators) are handled under an inert atmosphere (e.g., nitrogen gas) in a glove box. A stirred 2-liter reactor is charged with about 533 g of mixed alkanes solvent (Isopar E) and 250 g of 1-octene comonomer. Hydrogen gas (45 psi) is added as a molecular weight control agent by differential pressure expansion from a 75 mL addition tank at 300 psi (2070 kiloPascals (kPa)). The reactor contents are heated to a polymerization temperature of 120° C. and saturated with ethylene at 466 psig (3.4 MPa). Metal-ligand Complex (1) and activating co-catalysts (i) and (ii) that are (i) 1.2 mole equivalents of a mixture of methyldi((C14-C18)alkyl)ammonium salts of tetrakis(pentafluorophenyl)borate, abbreviated herein as MDATPB, prepared by reaction of a long chain trialkylamine (a “di(tallow)methylamine”); ARMEEN™ M2HT, available from Akzo-Nobel, Inc.), HCl and Li[B(C6F5)4], substantially as disclosed in U.S. Pat. No. 5,919,9883, Ex. 2; and (ii) modified methylaluminoxane-3 Å (MMAO-3A) (10 mole equivalents), as dilute solutions in toluene, are mixed and transferred to a catalyst addition tank and injected into the reactor. The polymerization conditions are maintained for 15 minutes with ethylene added on demand. Heat is continuously removed from the reaction through an internal cooling coil. The resulting solution is removed from the reactor, quenched with isopropyl alcohol, and stabilized by addition of 10 mL of a toluene solution containing approximately 67 mg of a hindered phenol antioxidant (IRGANOX™ 1010 from Ciba Geigy Corporation) and 133 mg of a phosphorus stabilizer (IRGAFOS™ 168 from Ciba Geigy Corporation).

reactant | 1-octene | 250 g | C=CCCCCCC | C8H16
reactant | Hydrogen | [H][H] | H2
reactant | ethylene | C=C | C2H4
reactant | Metal | N[C@@H](CCSC)C=O | C5H11NOS
reactant | tetrakis(pentafluorophenyl)borate | FC1=C(C(=C(C(=C1[B-](C1=C(C(=C(C(=C1F)F)F)F)F)(C1=C(C(=C(C(=C1F)F)F)F)F)C1=C(C(=C(C(=C1F)F)F)F)F)F)F)F)F
reactant | HCl | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Ethylene/1-Octene | C=C.C=CCCCCCC | InChI=1S/C8H16.C2H4/c1-3-5-7-8-6-4-2;1-2/h3H,1,4-8H2,2H3;1-2H2
